US06727256B1
N-{3-Chloro-4-[(3-fluorobenzyl)oxy]phenyl}-6-[5-({[2-(methanesulphonyl)ethyl]amino}methyl)-2-furyl]-4-quinazolinamine
Prepared according to Procedure D from 5-(4-{3-chloro-4-(3-fluorobenzyloxy)-anilino}-6-quinazolinyl)-furan-2-carbaldehyde (0.6 equiv) and 2-methanesulphonyl-ethylamine (1 equiv). 1H NMR 400 MHz (DMSO-d6) 9.60 (bs, 1H); 9.32 (bs, 1H); 8.82 (bs, 1H); 8.34 (d, 1H); 8.0 (s, 1H); 7.88 (d, 1H); 7.74 (d, 1H); 7.45 (m, 1H); 7.34-7.23 (m, 4H); 7.17 (m, 1H); 6.83 (d, 1H); 5.27 (s, 2H); 4.42 (s, 2H); 3.59 (m, 2H); 3.40 (m, 2H, obscured by waterpeak); 3.12 (s, 3H); MS m/z 581 (M+H+).

reactant | 5-(4-{3-chloro-4-(3-fluorobenzyloxy)-anilino}-6-quinazolinyl)-furan-2-carbaldehyde | 0.6 equiv | ClC=1C=C(NC2=NC=NC3=CC=C(C=C23)C2=CC=C(O2)C=O)C=CC1OCC1=CC(=CC=C1)F | C26H17ClFN3O3
reactant | 2-methanesulphonyl-ethylamine | 1 equiv | CS(=O)(=O)CCN | C3H9NO2S
product | N-{3-Chloro-4-[(3-fluorobenzyl)oxy]phenyl}-6-[5-({[2-(methanesulphonyl)ethyl]amino}methyl)-2-furyl]-4-quinazolinamine | ClC=1C=C(C=CC1OCC1=CC(=CC=C1)F)NC1=NC=NC2=CC=C(C=C12)C=1OC(=CC1)CNCCS(=O)(=O)C | C29H26ClFN4O4S
